* NGSPICE file created from st_8v1.ext - technology: ihp-sg13g2

.subckt st_8v1_pex VDD A Y VSS
X0 a_142_n38# Y VSS VDD sg13_lv_pmos ad=0.204p pd=1.88u as=0.204p ps=1.88u w=0.6u l=0.13u
X1 Y A a_142_n38# VDD sg13_lv_pmos ad=1.632p pd=10.28u as=0.912p ps=5.18u w=4.8u l=0.13u
X2 VDD Y a_142_n594# VSS.t0 sg13_lv_nmos ad=0.204p pd=1.88u as=0.204p ps=1.88u w=0.6u l=0.13u
X3 a_142_n594# A VSS.t2 VSS.t1 sg13_lv_nmos ad=0.912p pd=5.18u as=1.632p ps=10.28u w=4.8u l=0.13u
X4 a_142_n38# A VDD VDD sg13_lv_pmos ad=0.912p pd=5.18u as=1.632p ps=10.28u w=4.8u l=0.13u
X5 Y A a_142_n594# VSS.t3 sg13_lv_nmos ad=1.632p pd=10.28u as=0.912p ps=5.18u w=4.8u l=0.13u
R0 VSS.n0 VSS.t1 300.553
R1 VSS.t1 VSS.t0 95.9535
R2 VSS.t0 VSS.t3 4.44483
R3 VSS.n0 VSS.t3 1.58814
R4 VSS VSS.n0 1.34415
R5 VSS.n0 VSS.t2 1.21479
C0 VDD A 0.89256f
C1 a_142_n38# A 0.1467f
C2 Y A 0.1567f
C3 a_142_n594# VDD 0.05209f
C4 a_142_n594# Y 0.40731f
C5 a_142_n38# VDD 0.37982f
C6 Y VDD 0.57409f
C7 Y a_142_n38# 0.40731f
C8 a_142_n594# A 0.1467f
C9 a_142_n594# VSS 0.77976f
C10 a_142_n38# VSS 1.26589f
C11 VDD VSS 1.20559f
.ends

